US07632851B2
(2Benzo[1,2,5]oxadiazol-5-yl-phenyl)-dimethyl-amine
523 mg (1.65 eq.) bis(pinacolato)diboran, 552 mg (4.5 eq.) potassium acetate and 51 mg (0.01 eq.) PdCl(dppf)-CH2Cl2 are added to a solution of 373 mg 5-bromo-benzo[1,2,5]oxadiazole in 8 mL DMF and heated to 80° C. under continuous stirring for 6 hours. 662 mg (5 eq.) sodium carbonate in 3.3 mL water are added together with 500 mg (1 eq.) 2-bromo-N,N-dimethylaniline and 51 mg (0.01 eq.) PdCl(dppf)-CH2Cl2 to the reaction mixture, which is stirred for another 18 hours at 80° C., cooled to room temperature and extracted with ethyl acetate and water. The combined organic phases are washed with brine, dried over magnesium sulfate and evaporated. The residue is column chromatographed (hexane, then hexane/ethyl acetate 8:1) to yield the desired product as an orange resin. MS(ES+): 240 (M+1).

reactant | potassium acetate | 552 mg, 4.5 eq. | C(C)(=O)[O-].[K+]
reactant | 5-bromo-benzo[1,2,5]oxadiazole | 373 mg | BrC=1C=CC=2C(=NON2)C1 | C6H3BrN2O
reactant | sodium carbonate | 662 mg, 5 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-N,N-dimethylaniline | 500 mg, 1 eq. | BrC1=C(N(C)C)C=CC=C1 | C8H10BrN
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | 3.3 mL | O | H2O
product | (2Benzo[1,2,5]oxadiazol-5-yl-phenyl)-dimethyl-amine | N1=C2C(=NO1)C=C(C=C2)C2=C(C=CC=C2)N(C)C | C14H13N3O
